US04036864
Pregnenolone (10 g, 31.5 mmole) in pyridine (100 ml) was treated with trifluoroacetic anhydride (7.5 g) at room temperature for 15 minutes to give 3β-trifluoroacetoxy pregn-5(6)-en-20-one, which was isolated as an ethyl acetate solution and recrystallised from acetone as prisms (10.36 g) m.p. 155°-156°; [α]D25 + 4.5° (c 1.63, CHCl3).

reactant | Pregnenolone | 31.5 mmole, 10 g | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C21H32O2
reactant | trifluoroacetic anhydride | 7.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3β-trifluoroacetoxy pregn-5(6)-en-20-one | FC(C(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(F)F | C23H31F3O3
